US07700594B2
7-Methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 7-methoxy-1H-indole.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 7-methoxy-1H-indole | COC=1C=CC=C2C=CNC12 | C9H9NO
product | 7-Methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | COC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C15H20BNO3
